US07160888B2
Synthesis of 7-{5-[4-(2,3-Dichloro-phenyl)-piperazin-1-yl]-pentyl}-3,4-dimethyl-1H-[1,8]naphthyridin-2-one
7-{5-[4-(2,3-Dichloro-phenyl)-piperazin-1-yl]-pent-1-enyl}-3,4-dimethyl-1H-[1,8]naphthyridin-2-one (80 mg, 0.17 mmol) was dissolved in a minimal amount of THF (2 mL) and the solution was diluted with ethanol (10 mL). The solution was treated with Raney Nickel (0.5 mL slurry in water) and shaken under 45 psi H2 for 3 h. The mixture was filtered through celite. The celite pad was washed with THF (2×10 mL), and the filtrate was evaporated in vacuo. The crude solid was purified by column chromatography (5% MeOH/CH2Cl2) to yield the title compound as a white solid (64 mg, 80%). mp 202–203° C., 1H NMR (400 MHz, CDCl3) δ 8.98 (br s, 1H) 7.84 (d, 1H), 7.20–7.15 (m, 2H), 7.04 (d, 1H), 6.98–6.95 (m, 1H), 3.15–3.00 (m, 4H), 2.81 (t, 2H), 2.70–2.55 (m, 4H), 2.46–2.36 (m, 5H), 2.22 (s, 3H), 1.82–1.75 (m, 2H), 1.60–1.50 (m, 2H), 1.45–1.36 (m, 2H), MS ES+ 473.00 (M+H)+ (Exact Mass: 472.18).

reactant | 7-{5-[4-(2,3-Dichloro-phenyl)-piperazin-1-yl]-pent-1-enyl}-3,4-dimethyl-1H-[1,8]naphthyridin-2-one | 0.17 mmol, 80 mg | ClC1=C(C=CC=C1Cl)N1CCN(CC1)CCCC=CC1=CC=C2C(=C(C(NC2=N1)=O)C)C | C25H28Cl2N4O
solvent | THF | 2 mL | C1CCOC1 | C4H8O
solvent | ethanol | 10 mL | C(C)O | C2H6O
catalyst | Raney Nickel | 0.5 mL | [Ni] | Ni
product | 7-{5-[4-(2,3-Dichloro-phenyl)-piperazin-1-yl]-pentyl}-3,4-dimethyl-1H-[1,8]naphthyridin-2-one | 64 mg, 80% | ClC1=C(C=CC=C1Cl)N1CCN(CC1)CCCCCC1=CC=C2C(=C(C(NC2=N1)=O)C)C | C25H30Cl2N4O
